US08633207B2
To 2-[difluoro-(5-fluoro-pyridin-2-yl)-methyl]-8-bromo-3H-quinazolin-4-one (0.19 g, 0.52 mmol) at rt were added DIEA (0.18 mL, 1.04 mmol) and POCl3 (3.5 mL, 76 mmol) and the mixture was heated at 115° C. for 6 h. The mixture was allowed to cool to rt and then was concentrated under reduced pressure. The residue was treated with toluene and concentrated to dryness twice. The residue was partitioned between EtOAc (20 mL) and cold saturated aq NaHCO3 (10 mL), and the separated EtOAc layer was diluted with EtOAc (60 mL) and washed with saturated aq NaHCO3 (10 mL), brine (2×10 mL), dried over MgSO4, filtered, and concentrated under reduced pressure to afford 4-chloro-2-[difluoro-(5-fluoro-pyridin-2-yl)-methyl]-8-bromo-quinazoline as a brown viscous oil (207 mg, quantitative).

reactant | 2-[difluoro-(5-fluoro-pyridin-2-yl)-methyl]-8-bromo-3H-quinazolin-4-one | 0.52 mmol, 0.19 g | FC(C1=NC2=C(C=CC=C2C(N1)=O)Br)(C1=NC=C(C=C1)F)F | C14H7BrF3N3O
reactant | DIEA | 1.04 mmol, 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | POCl3 | 76 mmol, 3.5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-[difluoro-(5-fluoro-pyridin-2-yl)-methyl]-8-bromo-quinazoline | ClC1=NC(=NC2=C(C=CC=C12)Br)C(C1=NC=C(C=C1)F)(F)F | C14H6BrClF3N3
